US08865736B2
2-Benzyloxymethyl-4-(4-chloro-phenyl)-thiazole
To the solution of 2-Benzyloxy-thioacetamide (3.0 g, 16.57 mmol) in 3 ml of DMF was added 2-Bromo-1-(4-chloro-phenyl)-ethanone (3.0 g, 12.87 mmol). The reaction mixture was heated at 130° C. for 24 h under nitrogen atmosphere. After the completion of the reaction mixture (TLC monitoring), water (25 mL) was added and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated. The crude residue was purified over silica gel (230-400 M, 2% EtOAc-Hexane) to get the desired product (2.0 g, 49%). The corresponding cyano derivative was also prepared by the same general method.

reactant | 2-Benzyloxy-thioacetamide | 16.57 mmol, 3.0 g | C(C1=CC=CC=C1)OCC(=S)N | C9H11NOS
reactant | 2-Bromo-1-(4-chloro-phenyl)-ethanone | 12.87 mmol, 3.0 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | water | 25 mL | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-Benzyloxymethyl-4-(4-chloro-phenyl)-thiazole | 2.0 g, 49% | C(C1=CC=CC=C1)OCC=1SC=C(N1)C1=CC=C(C=C1)Cl | C17H14ClNOS
